US05644053
(a) Benzhydryl (E)-(2S,3S,5R)-3-[3-(2-chloro-acetylamino- carbonyloxy)-propenyl]-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate
300 mg (0.73 mmol) of benzhydryl (E)-(2S,3S,5R)-3-(3-hydroxy- propenyl)-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate were dissolved in 10 ml of tetrahydrofuran under argon and treated with 90 μl (1.05 mmol) of chloroacetyl isocyanate. The mixture was stirred for 3 hours, evaporated and chromatography was carried out over silica gel (particle size 0.040-0.063 mm) with ethyl acetate:n-hexane (9:16) as the eluent. Yield: 300 mg (77%) of colorless foam IR (KBr): 3300(br), 1779, 1753, 1730, 1495, 1203 cm-1MS: (M+NH4)+ 546.4

reactant | benzhydryl (E)-(2S,3S,5R)-3-(3-hydroxy- propenyl)-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | 0.73 mmol, 300 mg | OC/C=C/[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H23NO4S
reactant | chloroacetyl isocyanate | 1.05 mmol, 90 μl | ClCC(=O)N=C=O | C3H2ClNO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Benzhydryl (E)-(2S,3S,5R)-3-[3-(2-chloro-acetylamino- carbonyloxy)-propenyl]-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | ClCC(=O)NC(=O)OC/C=C/[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C26H25ClN2O6S
